US07695783B2
Mercaptosuccinic acid (Aldrich) (12.5 g, 0.083 mole) and 1H,1H,2H,2H-perfluorooctan-1-ol (Fluorochem Ltd.) (60.6 g, 0.166 mole) were suspended in toluene (400 ml). p-Toluene sulfonic acid hydrate (Aldrich) (0.36 g) was added and the mixture refluxed under argon atmosphere for 72 hours in a flask equipped with a Dean & Stark reflux condenser. The solution was allowed to cool and the toluene was removed by evaporation under reduced pressure. The resulting oil was redissolved in ethyl acetate (1000 ml) and washed with saturated aqueous sodium hydrogen carbonate (800 ml). The organic layer was separated, dried over anhydrous magnesium sulfate, filtered and evaporated to give 2-mercaptosuccinic acid bis-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl) ester as a pale yellow oil (66.2 g, 100% yield).

reactant | Mercaptosuccinic acid | 0.083 mole, 12.5 g | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | 1H,1H,2H,2H-perfluorooctan-1-ol | 0.166 mole, 60.6 g | C(CO)C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8H5F13O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-Toluene sulfonic acid hydrate | 0.36 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-mercaptosuccinic acid bis-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl) ester | 66.2 g, 100% yield | FC(CCOC(C(CC(=O)OCCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)S)=O)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C20H12F26O4S
